2100-10-31 05:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2100-10-30**] 07:25 PM - tagged RBC scan showed
   bleeding at sigmoid colon
 ANGIOGRAPHY - At [**2100-10-31**] 01:16 AM
   Tried to coil bleeding site in sigmoid colon,  could not locate the
   bleeding source.
   Transfused 3 units after arrival to MICU (2 units earlier on floor).
   UA concerning for UTI, started ceftriaxone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-31**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.6
   HR: 55 (55 - 67) bpm
   BP: 93/56(64) {93/51(60) - 185/113(132)} mmHg
   RR: 13 (0 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
           Total In:
                                                                    778 mL
                                                                    644 mL
   PO:
           TF:
   IVF:
                                                                    185 mL
                                                                    351 mL
   Blood products:
                                                                    593 mL
                                                                    293 mL
   Total out:
                                                                      0 mL
                                                                    540 mL
   Urine:
   540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    778 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: oriented to person, "in nursing home"
   HEENT: bilateraly periorbital edema and conjunctival injection, no
   other facial edema or rash
   Neck: supple, JVP flat
   CV: RRR, soft 2/6 systolic murmur
   Lungs: CTAB anteriorly, no wheezing or crackles
   Abd: soft, NT ND BS+ no rebound or guarding
   Ext: no edema, warm, DP's palpable bilaterally
   Labs / Radiology
   197 K/uL
   10.7 g/dL
   106 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.5 mEq/L
   32 mg/dL
   100 mEq/L
   133 mEq/L
   25.2 %
   8.8 K/uL
        [image002.jpg]
                            [**2100-10-30**]  07:08 PM
                            [**2100-10-30**]  09:55 PM
                            [**2100-10-31**]  03:13 AM
   WBC
   8.8
   Hct
   30.1
   27.7
   25.2
   Plt
   197
   Cr
   1.1
   Glucose
   106
   Other labs: PT / PTT / INR:13.3/27.4/1.1, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 2368**] is an 84 yo F w/diverticulosis transferred from medical
   floor for estimated 1L of BRBPR, HCT of 22 most likely [**1-9**] diverticular
   bleeding.
   .
   #BRBPR - most likely [**1-9**] diverticular bleeding given reported h/o
   diverticulosis, other possible sources of bleeding include AVM vs
   polyp/tumor.  Upper GI bleed is also possible although very unlikely
   given hemodynamic stability.  All of prior care has been at [**Hospital1 49**] so
   limited records at this time.  She has received a total of 5 units PRBC
   since admission.
   -continue with tranfusion, goal HCT >28
   -serial HCT's q6
   -2 large bore IV's for access
   -has one crossmatched unit available currently
   -NG lavage if any concern for UGIB
   -f/u GI recs, candidate for scope?
   -c/s colorectal surgery
   .
   # Urinary Tract Infection: Urine grossly opaque and UA indicative of
   UTI.  Treating with ceftriaxone pending culture and sensitivities.
   .
   #Dementia/Delirium - has baseline dementia per floor team but become
   increasingly agitated over the course of the day as her BRBPR has
   progressed.  According to her HCP, she has h/o of increased agitation
   while hospitalized.  UTI and acute blood loss may also be contributing.
   -continue to transfuse
   -treat UTI as above
   -monitor mental status
   .
   #Periorbital Edema - appearance c/w histamine reaction, concerning for
   tranfusions reaction although would be strange for reaction to be so
   localized as she had no other signs of systemic transfusion reaction.
   Other possiblity could be localized reaction [**1-9**] chemical irritation.
   Much improved after one dose of benadryl.
   -benadryl 12.5 prn
   -monitor s/s
   .
   #? Arrhythmia - unclear history but is on amiodarone and metoprolol at
   baseline, HR currently well controlled
   -hold metoprolol give acute bleeding
   -continue amiodarone given unknown arrhythmia
   .
   # HTN - holding antihypertensives given acute GI bleeding
   -hold metoprolol, lisinopril
   .
   # Hypothyroidism - continue levothyroxine
   .
   #CHF
 according to her niece she has a history of heart failure with
   IVF/resuscitation during prior hospitalizations.  Currently appears
   hypovolemic to euvolemic.  No evidence of pulmonary edema or elevated
   JVP on exam.
   -transfuse prn
   -monitor volume status
   .
   #FEN - continue w/IVF/PRBC as needed, replete lytes prn, NPO for now
   .
   # Access: 2 PIVs
   # Dispo: ICU; If hct remains stable and patient improves clinically,
   may consider call out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2100-10-30**] 06:27 PM
   18 Gauge - [**2100-10-30**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2100-11-01 05:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Surgery consulted
 following HCTs
   HCTs stable but slowly trending down.  On clears last night, awaiting
   AM labs to advance.  Did not receive any additional blood products over
   24 hours.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-1**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 66 (59 - 79) bpm
   BP: 114/58(83) {92/46(53) - 140/101(108)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,472 mL
                                                                    423 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,840 mL
                                                                    423 mL
   Blood products:
                                                                    533 mL
   Total out:
                                                                  2,510 mL
                                                                    370 mL
   Urine:
                                                                  2,510 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -38 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: oriented to person, "in nursing home"
   HEENT: bilateraly periorbital edema and conjunctival injection, no
   other facial edema or rash
   Neck: supple, JVP flat
   CV: RRR, soft 2/6 systolic murmur
   Lungs: Crackles at bases bilaterally
   Abd: soft, NT ND BS+ no rebound or guarding
   Ext: no edema, warm, DP's palpable bilaterally
   Labs / Radiology
   139 K/uL
   11.7 g/dL
   111 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   20 mg/dL
   101 mEq/L
   137 mEq/L
   31.4 %
   6.7 K/uL
        [image002.jpg]
                            [**2100-10-30**]  07:08 PM
                            [**2100-10-30**]  09:55 PM
                            [**2100-10-31**]  03:13 AM
                            [**2100-10-31**]  07:20 AM
                            [**2100-10-31**]  10:54 AM
                            [**2100-10-31**]  03:15 PM
                            [**2100-10-31**]  10:21 PM
   WBC
   8.8
   10.1
   Hct
   30.1
   27.7
   25.2
   34.0
   32.0
   31.1
   30.6
   Plt
   197
   133
   Cr
   1.1
   Glucose
   106
   Other labs: PT / PTT / INR:13.3/27.4/1.1, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Urine culture: E. coli, sensitivities pending.
   Assessment and Plan
   Mrs. [**Known lastname 2368**] is an 84 yo F w/diverticulosis transferred from medical
   floor for estimated 1L of BRBPR, HCT of 22 most likely [**1-9**] diverticular
   bleeding.
   .
   #BRBPR - most likely [**1-9**] diverticular bleeding given reported h/o
   diverticulosis, other possible sources of bleeding include AVM vs
   polyp/tumor.  Upper GI bleed is also possible although very unlikely
   given hemodynamic stability.  All of prior care has been at [**Hospital1 49**] so
   limited records at this time.  She has received a total of 5 units PRBC
   since admission.  Patient had a medium-sized melanic stool late morning
   of [**11-1**] be residual blood from her prior bleed.  Being
   transfused with 1 additional unit currently.  Discussed with GI, they
   do not feel that she is actively bleeding.  Plan for IR intervention if
   repeated BRBPR (no need to repeat tagged RBC scan).  If hct slowly
   trends downward, will prep and scope patient.
   -continue with tranfusion, goal HCT >28
   -serial HCT's Q8
   -2 large bore IV's for access
   -has one crossmatched unit available currently
   -NG lavage if any concern for UGIB
   -f/u GI recs,
   -f/u colorectal surgery recs
   .
   # Urinary Tract Infection: Urine grossly opaque and UA indicative of
   UTI.  Now growing E. coli.  Treating with ceftriaxone pending
   sensitivities.
   .
   #Dementia/Delirium - According to her HCP, she has h/o of increased
   agitation while hospitalized.  UTI and acute blood loss may also be
   contributing.  Delerium seems improved today
   -continue to transfuse
   -treat UTI as above
   -monitor mental status
   .
   #Periorbital Edema - appearance c/w histamine reaction, concerning for
   tranfusions reaction although would be strange for reaction to be so
   localized as she had no other signs of systemic transfusion reaction.
   Other possiblity could be localized reaction [**1-9**] chemical irritation.
   Much improved after one dose of benadryl.
   -benadryl 12.5 prn
   -monitor s/s
   .
   #? Arrhythmia - unclear history but is on amiodarone and metoprolol at
   baseline, HR currently well controlled
   -hold metoprolol give acute bleeding
   -continue amiodarone given unknown arrhythmia
   .
   # HTN - holding antihypertensives given acute GI bleeding
   -hold metoprolol, lisinopril
   .
   # Hypothyroidism - continue levothyroxine
   .
   #CHF
 according to her niece she has a history of heart failure with
   IVF/resuscitation during prior hospitalizations.  Currently appears
   euvolemic.  Scattered crackles on exam today, but no elevated JVP.
   Will monitor and avoid large fluid boluses.
   -transfuse prn
   -monitor volume status
   .
   #FEN - continue w/IVF/PRBC as needed, replete lytes prn, Clear liquids
   .
   # Access: 2 PIVs
   # Dispo: ICU; If hct remains stable, may consider call out to floor
   tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-10-30**] 06:28 PM
   20 Gauge - [**2100-10-31**] 10:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2100-11-01 12:04:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo women with h/o dimentia. CAD, HTN, arrhthmia, presented with
   LGIB.  Had positive tagged RBC scan, got 3U PRBC on saturday.  Went to
   IR, but stopped bleeding, so unable to identify source.  Since then has
   a HCT drifting down.
   24 Hour Events:
   Has been hemodynamically stable.
   +U/A and started on CTX for UTI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2100-11-1**] 08:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix
   CaCO3
   levoxyl
   amiodarone
   CTX
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Jaundice
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy, Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: confused/agitated at times
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2100-11-1**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 84 (62 - 84) bpm
   BP: 136/62(79) {92/46(60) - 149/81(90)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,472 mL
                                                                  1,180 mL
   PO:
                                                                    100 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,840 mL
                                                                    940 mL
   Blood products:
                                                                    533 mL
   Total out:
                                                                  2,510 mL
                                                                    930 mL
   Urine:
                                                                  2,510 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -38 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   139 K/uL
   111 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   20 mg/dL
   101 mEq/L
   137 mEq/L
   31.4 %
   6.7 K/uL
        [image002.jpg]
                            [**2100-10-30**]  07:08 PM
                            [**2100-10-30**]  09:55 PM
                            [**2100-10-31**]  03:13 AM
                            [**2100-10-31**]  07:20 AM
                            [**2100-10-31**]  10:54 AM
                            [**2100-10-31**]  03:15 PM
                            [**2100-10-31**]  10:21 PM
                            [**2100-11-1**]  05:16 AM
   WBC
   8.8
   10.1
   6.7
   Hct
   30.1
   27.7
   25.2
   34.0
   32.0
   31.1
   30.6
   31.4
   Plt
   197
   133
   139
   Cr
   1.1
   1.0
   Glucose
   106
   111
   Other labs: PT / PTT / INR:13.3/27.4/1.1, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Hct has been stable.
 H/O HYPERTENSION, BENIGN:  Current HTN meds on hold given recent
   bleed
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   UTI on CTX day two.  Can d/c foley.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-10-30**] 06:28 PM
   20 Gauge - [**2100-10-31**] 10:04 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2100-11-02 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * 1 additional episode of melena during day. B/C of prior Hct drop
       was transfused 1 unit, Hct to 37.8. GI thought likey due to
       retained stool from earlier bleed.  Tagged RBC scan ordered but
       D/C.  Per GI, patient to go for angiography directly (does not need
       additional nuclear study).
     * UCx grew out ecoli -> patient started on ceftriaxone
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Ceftriaxone
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-2**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 62 (62 - 86) bpm
   BP: 112/60(71) {86/48(60) - 153/80(105)} mmHg
   RR: 19 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                  1,906 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                    836 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,010 mL
                                                                    300 mL
   Urine:
                                                                  1,010 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    896 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   Gen: oriented to person, "in nursing home"
   HEENT: NCAT
   Neck: supple, JVP flat
   CV: RRR, soft 2/6 systolic murmur
   Lungs: Crackles at bases bilaterally
   Abd: soft, NT ND BS+ no rebound or guarding
   Ext: no edema, warm, DP's palpable bilaterally. R arm w/diffuse
   swelling. NTTP. Good radial pulse.
   Labs / Radiology
   131 K/uL
   12.6 g/dL
   84 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   35.6 %
   6.6 K/uL
        [image002.jpg]
                            [**2100-10-30**]  09:55 PM
                            [**2100-10-31**]  03:13 AM
                            [**2100-10-31**]  07:20 AM
                            [**2100-10-31**]  10:54 AM
                            [**2100-10-31**]  03:15 PM
                            [**2100-10-31**]  10:21 PM
                            [**2100-11-1**]  05:16 AM
                            [**2100-11-1**]  12:49 PM
                            [**2100-11-1**]  09:00 PM
                            [**2100-11-2**]  03:00 AM
   WBC
   10.1
   6.7
   6.6
   Hct
   27.7
   25.2
   34.0
   32.0
   31.1
   30.6
   31.4
   35.6
   37.8
   35.6
   Plt
   133
   139
   131
   Cr
   1.0
   1.0
   Glucose
   111
   84
   Other labs: PT / PTT / INR:12.4/26.5/1.0, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 2368**] is an 84 yo F w/diverticulosis transferred from medical
   floor for estimated 1L of BRBPR, HCT of 22 most likely [**1-9**] diverticular
   bleeding.
   .
   #BRBPR
 Localized to sigmoid colon on tagged rbc scan but bleeding d/c
   by time patient went to angiography, so no intervention performed..
   Most likely [**1-9**] diverticular bleeding given reported h/o
   diverticulosis, other possible sources of bleeding include AVM vs
   polyp/tumor.  She has received a total of 6 units PRBC since admission,
   including 1 U last night after what appeared to be passage of stool
   from prior bleed.  Patient had a medium-sized melanic stool late
   morning of [**11-1**]
 likely residual blood from her prior bleed.  Plan
   for IR intervention if repeated BRBPR (no need to repeat tagged RBC
   scan).  If hct slowly trends downward, will prep and scope patient.
   - transfusion as needed, goal HCT >28
   -serial HCT's Q8
   -2 large bore IV's for access
   -has one crossmatched unit available currently
   -NG lavage if any concern for UGIB
   -f/u GI recs,
   -f/u colorectal surgery recs
   .
   # Urinary Tract Infection: Urine grossly opaque and UA indicative of
   UTI.  Now growing E. coli.  Treating with ceftriaxone pending
   sensitivities.
   .
   #Dementia/Delirium - According to her HCP, she has h/o of increased
   agitation while hospitalized.  UTI and acute blood loss may also be
   contributing.  Delerium seems improved today
   -continue to transfuse
   -treat UTI as above
   -monitor mental status
   .
   #Periorbital Edema - appearance c/w histamine reaction, concerning for
   tranfusions reaction although would be strange for reaction to be so
   localized as she had no other signs of systemic transfusion reaction.
   Other possiblity could be localized reaction [**1-9**] chemical irritation.
   Much improved after one dose of benadryl.
   -benadryl 12.5 prn
   -monitor s/s
   .
   #? Arrhythmia - unclear history but is on amiodarone and metoprolol at
   baseline, HR currently well controlled
   -hold metoprolol give acute bleeding
   -continue amiodarone given unknown arrhythmia
   .
   # HTN - holding antihypertensives given acute GI bleeding. Bleeding has
   resolved and BP now in 150
   -Start home lasix, then metoprolol, then lisinopril.  Advance meds
   slowly throughout day vs some tomorrow based on BP tolerance of
   previous med.
   .
   # Hypothyroidism - continue levothyroxine
   .
   #CHF
 according to her niece she has a history of heart failure with
   IVF/resuscitation during prior hospitalizations.  Currently appears
   euvolemic.  Scattered crackles on exam today, but no elevated JVP.
   Will monitor and avoid large fluid boluses.
   -transfuse prn
   -monitor volume status
   .
   #FEN - continue w/IVF/PRBC as needed, replete lytes prn, Regular diet.
   If Hct trends down, keep NPO after midnight for GI to scope tomorrow.
   .
   # Access: 2 PIVs
   # Dispo: Hct stable, can call out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-11-2**] 04:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2100-11-02 10:25:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   84 yo women with LGIB
   24 Hour Events:
   Patient with episode of melena yesterday, received 1 U, with Hct
   appropriately increased.
   CTX started for E. Coli in Urine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2100-11-1**] 08:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   prilosec
   CaCO
   levoxyl
   amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain, No(t) Emesis, No(t) Diarrhea
   Flowsheet Data as of  [**2100-11-2**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 64 (62 - 86) bpm
   BP: 114/66(84) {86/48(60) - 153/80(105)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                  1,906 mL
                                                                    100 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    836 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,010 mL
                                                                    600 mL
   Urine:
                                                                  1,010 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    896 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   131 K/uL
   84 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   35.6 %
   6.6 K/uL
        [image002.jpg]
                            [**2100-10-30**]  09:55 PM
                            [**2100-10-31**]  03:13 AM
                            [**2100-10-31**]  07:20 AM
                            [**2100-10-31**]  10:54 AM
                            [**2100-10-31**]  03:15 PM
                            [**2100-10-31**]  10:21 PM
                            [**2100-11-1**]  05:16 AM
                            [**2100-11-1**]  12:49 PM
                            [**2100-11-1**]  09:00 PM
                            [**2100-11-2**]  03:00 AM
   WBC
   10.1
   6.7
   6.6
   Hct
   27.7
   25.2
   34.0
   32.0
   31.1
   30.6
   31.4
   35.6
   37.8
   35.6
   Plt
   133
   139
   131
   Cr
   1.0
   1.0
   Glucose
   111
   84
   Other labs: PT / PTT / INR:12.4/26.5/1.0, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Hct stable no active bleeding
 .H/O HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Improved
   UTI:  On CTX with E. coli in urine.
   ICU Care
   Nutrition:
   Comments: Advance to full diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-11-2**] 04:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes